US05849911
1-[4-(Pyridin-2-yl)-phenyl]-4(S)-hydroxy-2-N-(N-methoxy-carbonyl-(L)-valyl)amino-5(S)-N-(N-methoxycarbonyl-(L)-iso-leucyl)amino-6-phenyl-2-azahexane
Analogously to Example 46, 0.96 g (1.5 mmol) of 1-[4-(pyridin-2-yl)-phenyl]-4(S)-hydroxy-2-amino-5(S)-N-(N-methoxycarbonyl-(L)-iso-leucyl)amino-6-phenyl-2-azahexane 3HCl (Example 47 d) in 10 ml of DMF are reacted with 0.263 g (1.5 mmol) of N-methoxycarbonyl-(L)-valine, 0.446 g (1.5 mmol) of TPTU and 0.78 ml (4.5 mmol) of DBU in 7 ml of DMF. After working up, the title compound is obtained: TLC: Rf =0.4 (ethyl acetate); HPLC20-100 : tRet =11.23. FAB MS (M+H)+ =691.

reactant | 1-[4-(pyridin-2-yl)-phenyl]-4(S)-hydroxy-2-amino-5(S)-N-(N-methoxycarbonyl-(L)-iso-leucyl)amino-6-phenyl-2-azahexane 3HCl | 1.5 mmol, 0.96 g | Cl.Cl.Cl.N1=C(C=CC=C1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)[C@@H](C)CC)=O)O)N
reactant | N-methoxycarbonyl-(L)-valine | 1.5 mmol, 0.263 g | COC(=O)N[C@@H](C(C)C)C(=O)O | C7H13NO4
reactant | TPTU | 1.5 mmol, 0.446 g | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C=CC=CC1=O
reactant | DBU | 4.5 mmol, 0.78 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | DMF | 7 ml | CN(C)C=O | C3H7NO
product | 1-[4-(Pyridin-2-yl)-phenyl]-4(S)-hydroxy-2-N-(N-methoxy-carbonyl-(L)-valyl)amino-5(S)-N-(N-methoxycarbonyl-(L)-iso-leucyl)amino-6-phenyl-2-azahexane | N1=C(C=CC=C1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)[C@@H](C)CC)=O)O)NC([C@@H](NOC)C(C=C=O)C)=O | C37H48N6O7
